US07727986B2
[4-(4-Amino-2,5-dimethyl-phenoxy)-pyrimidin-2-yl]-methyl-phenyl-amine-Compound (V)
A solution of 2.50 g (10 mmol) 4-(2-chloro-pyrimidin-4-yloxy)-2,5-dimethyl-phenylamine and 2.14 g N-methylaniline (20 mmol) in 50 ml hydrochloric acid were stirred for 20 h at 80° C. After cooling down to ambient temperature 50 ml ethyl acetate was added and the organic layer was separated. The water layer was brought to pH 8 with sodium carbonate and the formed precipitate was filtered by suction and washed with hexane. After separation the organic layer was concentrated in vacuo and column chromatography (dichloromethane) yielded 380 mg (11%) with a purity of 89% log P (pH=2.3)=1.72.

reactant | 4-(2-chloro-pyrimidin-4-yloxy)-2,5-dimethyl-phenylamine | 10 mmol, 2.50 g | ClC1=NC=CC(=N1)OC1=CC(=C(C=C1C)N)C | C12H12ClN3O
reactant | N-methylaniline | 20 mmol, 2.14 g | CNC1=CC=CC=C1 | C7H9N
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | [4-(4-Amino-2,5-dimethyl-phenoxy)-pyrimidin-2-yl]-methyl-phenyl-amine | NC1=CC(=C(OC2=NC(=NC=C2)N(C2=CC=CC=C2)C)C=C1C)C | C19H20N4O
